Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
confusion
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ F w/ PMH RA presents with 3 days of confusion, fatigue, found
to have L BG IPH at OSH, transferred for further care.

History is limited, as patient with some cognitive impairment at
baseline. Family was not at bedside, per RN, they had not
accompanied the patient from the OSH and had gone home. Contact
information for family was not found in transfer packet, OMR, 
and
the patient could not recall phone numbers. History is gathered
from the patient and transfer material, which consisted mostly 
of
EMS reports, did not find the paper ___ records with the
material. OMR link "magic button" to CHA records, did not return
a result, even though she had gone to ___.

Mrs. ___ states that she has been feeling tired and confused
for several days. She states that each day she wakes up and 
feels
very tired. She also feels confused, is not sure where she is.
She feels that this started gradually. Her son had reported to
EMS that she had been fatigued and confused for 3 days and had
not noticed an other symptoms. She states that she has not
noticed any weakness, numbness, double vision, dysarthria. She
states she has a minor headache, she is not sure when this
started. She denies taking any blood thinners or aspirin. Her 
son
had reported to EMS that she has dementia. BP in 140/70s with
EMS. her son had not noticed any facial droop or weakness. EMS
noted that she was not oriented to person, place, time.

On presentation to ___, she had NCHCT done, which showed
approximately 4x8mm L BG hemorrhage seen on ___ slices. She was
reported to have received ceftriaxone for an abnormal UA,
although those results were not available for my review. She
denies any dysuria in the past few days or currently. Her BP was
160/90 initially in the emergency room here, later on SBP was in
the 130-140s. She denies any history of hypertension.

 
On neuro ROS, the pt denies loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash. 

 
Past Medical History:
RA
OA
possible dementia per family from EMS report
 
Social History:
___
Family History:
Patient is unaware of any significant history.
Denies stroke, hemorrhagic or otherwise in family.
 
Physical Exam:
Admission Physical Exam: 
 Vitals: T98.2 HR 72 BP 160/90 RR 18 Spo2 94%

 General: Awake, cooperative, NAD. 
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx 
 Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 

 Pulmonary: Normal work of breathing 
 Cardiac: RRR, warm, well-perfused 
 Abdomen: soft, non-distended 
 Extremities: No ___ edema. 
MSK: arthritic changes in multiple large joints. ulnar deviation
in both hands. large amount of redundant skin at both elbows.
surgical scars at both elbows
 Skin: no rashes or lesions noted. 

Neurologic:

-Mental Status: Alert, oriented to self. States year is ___
initiallybut corrects to ___. When asked month states it is
sometime between ___ and ___. States she is at a
hospital but not sure which one. Able to relate a limtied amount
of history. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects on 
stroke
card, only unable to name cactus.  Able to read without
difficulty. Speech was not dysarthric. Able to follow both
midline and appendicular commands. Pt was able to register 3
objects, at 3 minutes recalled ___ with MC. There was no
evidence of apraxia or neglect. Salutes normally.

-Cranial Nerves: 
 II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
 V: Facial sensation intact to light touch. 
 VII: No facial droop, facial musculature symmetric. 
 VIII: Hearing intact to finger-rub bilaterally. 
 IX, X: Palate elevates symmetrically. 
 XI: ___ strength in trapezii bilaterally. 
 XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 
 No adventitious movements, such as tremor, noted. No asterixis
noted. 
   Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___  
 L  5    ___   ___   5    5     5      5    
 R  5    ___   ___   5    5     5      5 

She states she is weak in her triceps chronically and needs
surgery on her elbows again
She felt the left leg felt heavier than usually but she is not
sure over what time period

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense throughout. No extinction to DSS. 

-DTRs: 
   Bi Tri ___ Pat Ach 
 L  2  2    2    2   1 
 R  2  2    2    2   1 
 Plantar response was extensor bilaterally

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. 

DISCHARGE PHYSICAL EXAM
Vitals: Tm/c: 98.5 BP: 123/60 HR: 68 RR: 18 SaO2: 98
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Pulmonary: Breathing comfortably, no tachypnea or increased WOB
MSK: Notable for bilateral ulnar deviation in the hands. Large
rheumatoid nodule on right olecranon. No edema. 
Skin: Erythematous, xerotic rash on lower right shin/calf.
Patient did not know the rash was present and did not endorse
pain or itchiness.

Neurologic:

-Mental Status: Patient alert, oriented to self, ___
(started at ___ and corrected to ___, and place (hospital,
___. Naming and repetition intact. Language was fluent with
no paraphasic errors. Attentive to days of week backwards. Able
to follow midline and appendicular commands.

-Cranial Nerves: Face symmetric at rest and with activation, 
with
sensation equal to light touch throughout. Hearing intact to
conversation. ___ strength in trapezii bilaterally. Tongue
protrudes in midline. No dysarthria. 

-Motor: Decreased bulk throughout. No adventitious movements
observed.
  Bic Tri IP Quad Ham TA 
L  ___  5    5   5       
R  ___  5    5   5         

-Sensory: Intact to light touch in upper and lower extremities
bilaterally. Slight decreased sensation in left forearm compared
to right forearm, returned at mid-forearm.

-DTRs: ___.

-Coordination: No intention tremor. Finger tap rhythmic and
symmetric, although somewhat impaired by ulnar deviation.

-Gait: Deferred.

 
Pertinent Results:
Admission labs
___ 07:47PM BLOOD WBC: 6.9 RBC: 4.49 Hgb: 13.3 Hct: 40.4
MCV: 90 MCH: 29.6 MCHC: 32.9 RDW: 13.4 RDWSD: 43.___ 
___ 07:47PM BLOOD Neuts: 74.4* Lymphs: 16.2* Monos: 5.9 
Eos:
2.2 Baso: 0.9 Im ___: 0.4 AbsNeut: 5.14 AbsLymp: 1.12* AbsMono:
0.41 AbsEos: 0.15 AbsBaso: 0.06 
___ 07:47PM BLOOD ___: 11.7 PTT: 27.4 ___: 1.1 
___ 07:47PM BLOOD Glucose: 99 UreaN: 13 Creat: 0.6 Na: 144
K: 4.2 Cl: 106 HCO3: 23 AnGap: 15 
___ 07:47PM BLOOD ALT: 6 AST: 15 CK(CPK): 27* AlkPhos: 84
TotBili: 0.4 
___ 07:47PM BLOOD CK-MB: 1 cTropnT: <0.01 
___ 07:47PM BLOOD Albumin: 3.8 Calcium: 9.5 Phos: 3.6 Mg:
2.0 
___ 07:47PM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Tricycl: NEG 
___ 08:00PM URINE Color: Yellow Appear: Clear Sp ___: 
1.017

___ 08:00PM URINE Blood: NEG Nitrite: POS* Protein: TR*
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 6.5 
Leuks:
NEG 
___ 08:00PM URINE RBC: 0 WBC: 2 Bacteri: FEW* Yeast: NONE
Epi: 1 
___ 08:00PM URINE bnzodzp: NEG barbitr: NEG opiates: NEG
cocaine: NEG amphetm: NEG oxycodn: NEG mthdone: NEG 
___ 08:00PM URINE Mucous: RARE* 

TTE
1) Moderate aortic stenosis (low-flow, low-gradient in setting 
of normal LVEF) in setting of mild aortic regurgitation. 2) No 
structural cardiac source of embolism (e.g.patent foramen 
ovale/atrial septal defect, intracardiac thrombus, or 
vegetation) seen. However, patient
has mild mitral annular calcification.

MRI BRAIN
1. Unchanged left thalamic hematoma with no significant 
mass-effect.  
Additional evidence of chronic hemorrhage/microhemorrhage in the 
thalami and pons is most consistent with hypertensive 
hemorrhage. 
2. Scattered cortical/subcortical foci of microhemorrhage are 
more typical of cerebral amyloid angiopathy than hypertensive 
hemorrhage. 
3. Extensive pontine, periventricular and subcortical white 
matter T2/FLAIR hyperintensities are nonspecific and may reflect 
changes due to small vessel disease. 

CTA
1. Stable small left thalamic hemorrhage without significant 
edema or mass 
effect.  No new hemorrhage. 
2. Stable small hypodensity more superiorly in the left 
thalamus, likely a 
chronic infarct. 
3. Extensive confluent supratentorial white matter hypodensities 
are again 
demonstrated, nonspecific but likely sequela of chronic 
microangiopathy in 
this age group. 
4. Paranasal sinus disease. 
5. Bilateral cervical carotid atherosclerosis without stenosis 
by NASCET 
criteria. 
6. Calcified plaque mildly narrows the right vertebral artery 
origin. 
7. Calcified plaque within bilateral vertebral artery V3 and V4 
segments, and calcified plaque within bilateral carotid siphons, 
without flow-limiting stenosis. 
8. No evidence for intracranial aneurysm or arteriovenous 
malformation. 
9. Moderate emphysema in the included upper lungs. 

Discharge labs
___ 07:15AM BLOOD WBC-5.4 RBC-4.34 Hgb-12.7 Hct-38.6 MCV-89 
MCH-29.3 MCHC-32.9 RDW-13.4 RDWSD-43.8 Plt ___
___ 07:15AM BLOOD Glucose-91 UreaN-12 Creat-0.6 Na-144 
K-3.6 Cl-109* HCO3-23 AnGap-12
___ 07:15AM BLOOD Calcium-8.9 Phos-2.8 Mg-1.9
___ 07:10AM BLOOD Triglyc-106 HDL-57 CHOL/HD-3.6 
LDLcalc-128
 
Brief Hospital Course:
Ms. ___ is a ___ with a PMH of RA and possible
underlying dementia presenting from OSH with three days of
confusion, disorientation, and headache. Neurologic exam was
significant for disorientation, believed she went home and then 
returned to
a ___ hospital.

___ confirmed intraparenchymal hemorrhage in the left thalamus
and left basal ganglia, as well as hypodensity in the 
subcortical
white matter. Given the patient's hypertension on presentation,
history of medication noncompliance, and deep location of 
stroke,
the cause is likely hypertensive. It is also important to
consider dementia as a contributing factor in this patient's
presentation, given the findings on ___ and MRI and the son's
collateral of impaired memory.

Patient previously stated that she "no longer has a PCP because
they would not see her without health insurance," however, she 
is
registered on Medicare A & B in our system and review of
medication history reveals that she had prescriptions filled as
late as ___. Upon discussion with her outpatient
rheumatologist, it seems that she had been prescribed 
medications
which she has not been compliant with, which include Captopril
12.5 mg BID, Cyclobenzapine 10 mg PRN, Percocet ___ mg
___, Lovastatin 40 mg/day, folic acid (dose unknown) daily,
and aptenil (?) 35 mg/week.

She was started on atorvastatin 20mg qpm given her high 
cholesterol of 206 and LDL of 128. BP was monitored for goal 
SBP<150. She did not require antihypertensive medication to keep 
within this goal. 

TRANSITIONAL ISSUES
--------------------
[] Make sure you follow up with your primary care doctor and 
neurologist after leaving the hospital. 
[] Consider neuropsychiatric testing as outpatient to evaluate 
for dementia
[] atorvastatin 20mg qpm was started
[] blood pressure should be monitored regularly. If hypertensive 
>150, consider starting antihypertensive medication, such as 
Captopril 12.5mg bid
[] consider cardiology follow up for moderate aortic stenosis 
[] blood culture final results are still pending at time of 
discharge; these need to be followed up

 - Health Care Proxy: ___, p ___ - Code Status: Full code (attempt resuscitation)

AHA/ASA Core Measures for Intracerebral Hemorrhage 
1. Dysphagia screening before any PO intake? (x) Yes - () No. If 
no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(bleeding risk, hemorrhage, etc.) 
3. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate] 
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form?
(x) Yes - () No 
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No. If no, why not? (I.e. patient at 
baseline functional status) 
 
Medications on Admission:
none; patient had been noncompliant with home meds
 
Discharge Medications:
1.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth qpm Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
#left thalamic hemorrhage
#hypertension
#rheumatoid arthritis
#hyperlipidemia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms ___,  

 You were hospitalized due to an ACUTE HEMORRHAGIC STROKE, a 
condition where there is a bleed in the brain. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 high blood pressure
 high cholesterol
 
 We are changing your medications as follows:  
 atorvastatin was started

 Please take your other medications as prescribed. 
 
 Please follow up with Neurology and your primary care 
physician.  

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  

 Your ___ Neurology Team  

 
Followup Instructions:
___